Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
diarrhea, dizziness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a pleasant ___ yr old male with multiple comorbidities 
including systolic CHF (LVEF 25%), bullous pemphigoid and Afib 
(not on anticoagulation) presents with dizziness and diarrhea. 
According to the patient's daughter he was well until 1 day ago 
when he developed crampy abdominal pain and dizziness. Symptoms 
were later associated with the passage of loose watery stools. 
Patient had approximately 4 episodes. No history of mucous or 
blood in the stools. Patient denied any prior fever, chills, 
dysuria, cough, vomiting. Due to dizziness and overall weakness 
patient was taken to PCP's office where he was found to be 
severely tachycardic and hypotensive. Patient was referred to 
the ED for evaluation.
In the ED, initial vs were: 97.8 132 127/69 18 100% sat. Labs 
were remarkable for lactate of 2.2. Patient was given 50 mg 
metoprolol and 1 L NS.
Review of sytems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. Ten 
point review of systems is otherwise negative. 
 
Past Medical History:
1. Thrombocytopenia. Baseline is in 50,000s x many years.
2. Depression.
3. Essential tremor.
4. Diarrhea.
5. Prostate cancer s/p radiation treatment.
6. Hypertension.
7. Benign prostatic hypertrophy.
8. Ankle edema.
9. Memory disorder.
10. OSA on CPAP
11. Bullous pemphigoid
12. Chronic systolic cardiomyopathy EF 25%
13. Atrial fibrillation not on anticoagulation 
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T:97.6 BP:133/93 P:63 R:18 O2:98% RA
General: NAD, alert and oriented, pleasant
HEENT: NCAT, moist mucus membranes, normal oro/nasopharynx
Neck: Soft, supple
Respiratory: CTAB, no wheezing/rhonchi/rales
Cardiac: RRR, no murmurs/gallops/rubs
GI: Non-tender, non-distended, obese, +BS, soft
MSK: Strength and sensation grossly intact, no 
cyanosis/ecchymosis, trace-1+ periankle edema
Neuro: AAOx3, able to recount events from overnight, attentive 
and organized thought process, did not ask days of week 

DISCHARGE PHYSICAL EXAM:
Vitals: afebrile, vss Wt 75.1 kg
General: NAD, alert and oriented, pleasant
HEENT: NCAT, moist mucus membranes, normal oro/nasopharynx
Neck: Soft, supple
Respiratory: CTAB, no wheezing/rhonchi/rales
Cardiac: RRR, no murmurs/gallops/rubs
GI: Non-tender, non-distended, +BS, soft
MSK: Strength and sensation grossly intact, no 
cyanosis/ecchymosis, 1+ periankle edema
Neuro: AAOx3
 
Pertinent Results:
ADMISSION:

___ 02:15PM BLOOD WBC-8.1 RBC-4.23* Hgb-14.2 Hct-43.6 
MCV-103* MCH-33.5* MCHC-32.5 RDW-15.4 Plt ___
___ 02:15PM BLOOD Neuts-77.4* Lymphs-16.3* Monos-5.4 
Eos-0.4 Baso-0.5
___ 02:15PM BLOOD ___ PTT-30.4 ___
___ 02:15PM BLOOD Glucose-158* UreaN-44* Creat-1.7* Na-144 
K-3.8 Cl-102 HCO3-35* AnGap-11
___ 02:15PM BLOOD ALT-92* AST-40 AlkPhos-58 TotBili-0.7
___ 02:15PM BLOOD Albumin-3.5 Calcium-8.8 Phos-3.4 Mg-2.2
___ 02:15PM BLOOD Digoxin-0.5*
___ 02:39PM BLOOD Lactate-2.2*
___ 02:15PM BLOOD Lipase-48

EKG:
Supraventricular tachycardia. Atrial activity is difficult to 
discern but may be atrial tachycardia with 2:1 A-V conduction 
and occasional ventricular ectopy as compared to the previous 
tracing of ___. Clinical correlation is suggested. 

CXR:
IMPRESSION: Improved small bilateral pleural effusions, left 
worse than right. No evidence of pneumonia. 

HOSPITALIZATION:
___ 08:10AM BLOOD WBC-6.2 RBC-3.92* Hgb-13.0* Hct-40.3 
MCV-103* MCH-33.2* MCHC-32.3 RDW-15.4 Plt Ct-89*
___ 08:15AM BLOOD WBC-7.7 RBC-3.69* Hgb-12.5* Hct-37.5* 
MCV-102* MCH-33.7* MCHC-33.3 RDW-15.4 Plt Ct-85*
___ 08:15AM BLOOD ___ PTT-31.2 ___
___ 08:10AM BLOOD Glucose-97 UreaN-35* Creat-1.4* Na-146* 
K-4.1 Cl-108 HCO3-34* AnGap-8
___ 08:15AM BLOOD Glucose-127* UreaN-38* Creat-1.4* Na-143 
K-3.9 Cl-107 HCO3-30 AnGap-10
___ 08:10AM BLOOD Calcium-8.3* Phos-2.7 Mg-2.2
___ 08:15AM BLOOD Calcium-8.4 Phos-2.8 Mg-2.2
___ 08:15AM BLOOD Digoxin-0.6*
___ 11:51AM BLOOD Lactate-2.2*
___ 08:34AM BLOOD Lactate-1.7

DISCHARGE:
___ 08:15AM BLOOD WBC-7.2 RBC-3.57* Hgb-12.3* Hct-35.9* 
MCV-101* MCH-34.4* MCHC-34.1 RDW-14.7 Plt Ct-86*
___ 08:15AM BLOOD ___ PTT-31.3 ___
___ 08:15AM BLOOD Glucose-142* UreaN-38* Creat-1.5* Na-143 
K-3.8 Cl-107 HCO3-27 AnGap-13
___ 08:15AM BLOOD Calcium-8.3* Phos-2.6* Mg-2.___ y/o M with multiple medical comorbidities including systolic 
CHF, bullous pemphigoid on prednisone, Afib (not anticoagulated) 
presents with dizziness and diarrhea

# Dizziness, Diarrhea, Hypovolemia: 
Pt's symptoms were most likely related to viral gastroenteritis 
although mesenteric ischemia was also possible given patient's 
history of Afib. Pt's diarrhea resolved after admission.  His 
orthostatics were positive initially.  He received gentle IV 
fluid hydration and his diuretics were held.  His orthostatics 
were negative prior to discharge.  His torsemide was restarted 
at a low dose (10 mg PO daily) prior to discharge and was 
monitored for a day on this dose. He was advised to monitor his 
weight closely (75.1 kg on discharge) and increase his torsemide 
to 20 mg daily and call his cardiologist if his weight increases 
by more than 2 lbs. He will follow-up with his cardiologist on 
___.

#Afib with RVR: 
Pt's afib was likely exacerbated by hypovolemia. He received 
gentle IV fluid hydration and his metoprolol and digoxin were 
continued.  

#CHF:
Pt was continued on metoprolol, digoxin, and aspirin. He 
received gentle IV fluid hydration to avoid pulmonary edema.

# Bullous pemphigoid:
Pt was continued on daily prednisone (20 mg) to avoid worsening 
hypotension secondary to acute adrenal insufficiency.

# Delirium: 
Patient was at risk for delirium given age, hospitalization, 
hypovolemia, chronic steroid use. His delirium risk was 
minimized with the following:
- Daily reorientation
- Promote sleep wake cycle by minimizing night time vitals.
- Encourage family visits with daughter ___ who is actively 
involved in patient's care.
- ___ associated disability: OOB to chair.
- Continue vitamin D
- ___ for gait stability.

# CODE:DNR/DNI
# CONTACT: Daughter ___ ___ 

TRANSITIONAL ISSUES:
[ ] Follow-up daily weights, increase torsemide to 20 mg daily 
if weight increases by more than 2 lbs (from discharge weight of 
165 lbs or 75.1 kg)
[ ] Ensure resolution of diarrhea
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Digoxin 0.0625 mg PO QAM 
2. Lisinopril 2.5 mg PO NOON 
3. Metoprolol Succinate XL 50 mg PO BID 
4. Mirtazapine 15 mg PO HS 
5. Omeprazole 20 mg PO QAM 
6. PredniSONE 22.5 mg PO QAM 
7. Terazosin 5 mg PO HS 
8. Torsemide 20 mg PO DAYS (___) 
9. Torsemide 30 mg PO DAYS (___) 
10. Aspirin 81 mg PO QAM 
11. Vitamin D 1000 UNIT PO QAM 
12. Miconazole 2% Cream 1 Appl TP BID 

 
Discharge Medications:
1. Aspirin 81 mg PO QAM 
2. Digoxin 0.0625 mg PO QAM 
3. Lisinopril 2.5 mg PO NOON 
4. Metoprolol Succinate XL 50 mg PO BID 
5. Miconazole 2% Cream 1 Appl TP BID 
6. Mirtazapine 15 mg PO HS 
7. Omeprazole 20 mg PO QAM 
8. PredniSONE 20 mg PO QAM 
9. Terazosin 5 mg PO HS 
10. Torsemide 10 mg PO DAILY 
RX *torsemide 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
11. Vitamin D 1000 UNIT PO QAM 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
-diarrhea and dizziness
-congestive heart failure
-atrial fibrillation

Chronic:
-bullous pemphigoid
-obstructive sleep apnea
 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Mental Status: Clear and coherent.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure meeting you at ___.  You were admitted with 
dizziness and diarrhea.  Your diuretics were initially held to 
avoid further dehydration.  You received gentle IV fluid 
hydration.  You should follow-up with your cardiologist and your 
primary care physician.  Please call if you have any questions.

Weigh yourself every morning, please increase your dose of 
torsemide to 20 mg daily (two 10 mg tablets) and call your 
cardiologist if your weight goes up more than 2 lbs (from your 
discharge weight of 165 lbs).
 
Followup Instructions:
___